US06809199B2
To a 1M solution of lithium bis(trimethlsilyl)amide (10.5 mL) at −78° C. was added tert-butyl acetate (1.77 mL, 13.2 mmol) dropwise. To this mixture a solution of 4,6-dibromo-3-(bromomethyl)-2-(2-chloro-4-fluorophenyl)pyridine (4.02 g, 8.77 mmol) (COMPOUND PS) in 9.2 mL of THF was added dropwise over 20 min. After stirring for 30 min at −78° C., the reaction mixture was quenched by the dropwise addition of 3 mL of methanol, then warmed up to rt and partitioned between 30 mL each of saturated aqueous NaHCO3 and ethyl acetate. The aqueous phase was extracted with 2×20 mL of ethyl acetate. The combined organic layers were washed with brine (20 mL), dried over Na2SO4, and concentrated under reduced pressure. The residue was triturated with warm Et2O. The mother liquor was purified by flash chromatography on a Biotage 40M column eluting with 97:3 hexanes-ethyl acetate. The two batches were combined to give the tert-butyl 3-[4,6-dibromo-2-(2-chloro-4-fluorophenyl)pyridin-3-yl]propanoate. Mass spectrum (ESI) 492.4 (M+1).

reactant | lithium bis(trimethlsilyl)amide | 10.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl acetate | 13.2 mmol, 1.77 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 4,6-dibromo-3-(bromomethyl)-2-(2-chloro-4-fluorophenyl)pyridine | 8.77 mmol, 4.02 g | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)Cl)CBr | C12H6Br3ClFN
solvent | THF | 9.2 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[4,6-dibromo-2-(2-chloro-4-fluorophenyl)pyridin-3-yl]propanoate | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)Cl)CCC(=O)OC(C)(C)C | C18H17Br2ClFNO2
